US07582652B2
3-(2,2-Dimethyl-propyl)-5-(4-fluoro-phenylethyl)-3H-imidazo[4,5-b]pyridin-2-ylamine
Add methanol (1,200 mL) to combined lots of 3-(2,2-dimethyl-propyl)-5-(4-fluoro-phenylethynyl)-3H-imidazo[4,5-b]pyridin-2-ylamine (37.30 g) and heat to reflux. Add activated charcoal (3.73 g, 10 wt %) and reflux for 1 h. Filter while slurry is hot, then add water (375 mL) to the filtrate with stirring at room temperature. Filter off solids, wash 2×100 mL water and dry under reduced pressure at 45-50° C. to provide 30.0 g (80%) of the desired compound.

reactant | 3-(2,2-dimethyl-propyl)-5-(4-fluoro-phenylethynyl)-3H-imidazo[4,5-b]pyridin-2-ylamine | 37.30 g | CC(CN1C(=NC=2C1=NC(=CC2)C#CC2=CC=C(C=C2)F)N)(C)C | C19H19FN4
reactant | charcoal | 3.73 g | C | CH4
solvent | methanol | 1,200 mL | CO | CH4O
product | 3-(2,2-Dimethyl-propyl)-5-(4-fluoro-phenylethyl)-3H-imidazo[4,5-b]pyridin-2-ylamine | 30.0 g, 80% | CC(CN1C(=NC=2C1=NC(=CC2)CCC2=CC=C(C=C2)F)N)(C)C | C19H23FN4
